US09416135B2
To a 1 L round-bottom flask containing (R)-tert-butyl 4-(2-amino-4-(methoxycarbonyl)-5-(methylsulfonyl)phenyl)-2-isopropyl-3-oxopiperazine-1-carboxylate (25 g, 0.0532 mol) in dichloromethane (500 mL) was added Et3N (64.5 g, 0.638 mol, 12 eq.) and SiCl4 (27.1 g, 0.160 mol, 3 eq.). The mixture was stirred at rt overnight. The mixture was added dropwise to aq. NaHCO3 solution (54.1 g in 1 L of water, 0.644 mol, 12.1 eq.) at 0° C. slowly and adjusted to pH=8. The mixture was filtered and the aqueous layer was extracted with dichloromethane (3×600 mL). The combined organic layers were washed with brine, and then dried over anhydrous Na2SO4. The mixture was filtered and concentrated under vacuum to give the residue. The residue was purified by column chromatography on silica gel eluting with PE:EtOAc 2:1 to give (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate (13.2 g, 55% yield) as a pale yellow solid. Analytical chiral HPLC: tR=9.03 min in 15 min chromatography (Method: OD-3_3_5_40_2.5 ML). LC-MS MS (ESI) m/z 452.2 [M+H]+. 1H NMR (CD3OD 400 MHz): δ 8.31 (s, 1H), 8.01 (s, 1H), 5.30-5.18 (m, 1H), 4.70-4.52 (m, 1H), 4.47 (dd, J=3.2 and 12.4 Hz, 1H), 4.18 (dt, J=5.2 and 11.6 Hz, 1H), 3.98 (s, 3H), 3.70-3.52 (m, 1H), 3.44 (s, 3H), 2.50-2.38 (m, 1H), 1.53 (s, 9H), 1.25 (d, J=6.8 Hz, 3H), 1.06 (d, J=6.8 Hz, 3H).

reactant | (R)-tert-butyl 4-(2-amino-4-(methoxycarbonyl)-5-(methylsulfonyl)phenyl)-2-isopropyl-3-oxopiperazine-1-carboxylate | 0.0532 mol, 25 g | NC1=C(C=C(C(=C1)C(=O)OC)S(=O)(=O)C)N1C([C@H](N(CC1)C(=O)OC(C)(C)C)C(C)C)=O | C21H31N3O7S
reactant | Et3N | 0.638 mol, 64.5 g, 12 eq. | CCN(CC)CC | C6H15N
reactant | SiCl4 | 0.160 mol, 27.1 g, 3 eq. | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | NaHCO3 | 0.644 mol, 1 L, 54.1 g, 12.1 eq. | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 13.2 g, 55% yield | C(C)(C)[C@@H]1C=2N(CCN1C(=O)OC(C)(C)C)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C21H29N3O6S
